US06287749B1
2,2-Diethoxy-1-tetralone (compound Ib) was prepared by charging 48.9 g of 1-tetralone, 105 g of absolute ethanol, 5.2 g of gaseous hydrogen chloride to a reactor flask. To another flask (feeder flask) was added 62.6 g of ethyl nitrite. The feeder flask was connected to the reaction flask by a hose ending with a gas dispersion tube which would allow subsurface addition of the ethyl nitrite. The feeder flask was maintained at room temperature to facilitate ethyl nitrite evaporation. The ethyl nitrite was added to the reaction, with stirring, over about 60 minutes at a reaction temperature of 40-42° C. When the addition was complete, the mixture was neutralized to pH 8 and then ethanol was vacuum stripped on a rotary evaporator. The residue was held for 2 hours at about 50° C. to complete the saponification. The product was extracted into hexane and the hexane removed under vacuum. The residue was distilled under vacuum (0.2-0.5 mm Hg) to give 1.9 g of product. NMR, IR and MS were consistent with the proposed structure.

reactant | 1-tetralone | 48.9 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | hydrogen chloride | 5.2 g | Cl | ClH
reactant | ethyl nitrite | 62.6 g | N(=O)OCC | C2H5NO2
reactant | ethanol | 105 g | C(C)O | C2H6O
product | 2,2-Diethoxy-1-tetralone | C(C)OC1(C(C2=CC=CC=C2CC1)=O)OCC | C14H18O3
